US05262420
The procedure of Example 41 was repeated with the exception that 3.5 g of benzal acetone in place of cinnamic aldehyde and 2.26 g o±3-ethyl-4-methylpyridine were used in Example 41, to obtain 0.35 g (yield: 7.3%) of (E,E)-1-(3-ethyl-4-pyridyl)-2-methyl-4-phenyl -1,3-butadiene (hereinafter referred to as compound 57) and 0.22 g (yield: 4.7%) of (Z,E)-1-(3-ethyl-4-pyridyl)-2-methyl-4-phenyl-1,3-butadiene (hereinafter referred to as compound 58). The analytical results are shown below.

reactant | benzal acetone | 3.5 g | C(C1=CC=CC=C1)=CC(C)=O | C10H10O
reactant | 3-ethyl-4-methylpyridine | C(C)C=1C=NC=CC1C | C8H11N
product | (E,E)-1-(3-ethyl-4-pyridyl)-2-methyl-4-phenyl -1,3-butadiene | 0.35 g, yield: 7.3% | C(C)C=1C=NC=CC1\C=C(\C=C\C1=CC=CC=C1)/C | C18H19N
